US03969354
1-(2-butenyl)-2-(nitromethylene)imidazolidine (33)
Method B, 2-(nitromethylene)imidazolidine was reacted with 1-chloro-2-butene. Melting point: 82° - 85°.

reactant | 2-(nitromethylene)imidazolidine | [N+](=O)([O-])C=C1NCCN1 | C4H7N3O2
reactant | 1-chloro-2-butene | ClCC=CC | C4H7Cl
product | 1-(2-butenyl)-2-(nitromethylene)imidazolidine | C(C=CC)N1C(NCC1)=C[N+](=O)[O-] | C8H13N3O2
